data/mechanisms/records/IMS8-EQ8.75b.json
{"mechanism_id": "IMS8-EQ8.75b", "species": [{"species_id": "hydroxy_methyl_pentanone_molecular_ion", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][C:5]([CH3:7])([CH3:8])[OH:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "enol_radical_cation_from_carbinol_end", "mapped_smiles": "[CH2:7]=[C:5]([CH3:8])[OH+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetone_enol_neutral", "mapped_smiles": "[CH2:4]=[C:1]([CH3:3])[OH:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hydroxy_methyl_pentanone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["enol_radical_cation_from_carbinol_end", "acetone_enol_neutral"]}], "steps": [{"step_id": "step_rH_methyl_charge_migration", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}, {"source": {"type": "lone_pair", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "lone_pair", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_75b", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_methyl_charge_migration", "support_type": "textbook_proposed", "locator": {"page": 193, "equation": "8.75", "figure": null, "panel": "lower scheme", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "LOWER of the two schemes printed under the single equation number (8.75) on printed page 193 (PDF page 205); same substrate as the upper scheme, 4-hydroxy-4-methyl-2-pentanone+. , but here the hydroxyl is drawn intact as 'HO-' and the migrating H is drawn on ONE OF THE C5 METHYL GROUPS (the six-membered ring is H, C7, C5, C4, C1, O2). The running text names this route 'methyl-H rearrangement' and says it 'produces the same CH2=C(CH3)-OH+. ion by charge migration'. Products as printed: the ion is drawn on the LEFT, '+.' written on its 'HO' -- i.e. the charge/odd electron sit on the FORMER HYDROXYL oxygen, on the fragment that was NOT ionized (charge MIGRATION) -- and the neutral drawn on the right is the acetone ENOL, HO-C(CH3)=CH2. That assignment is confirmed by the following sentence, which contrasts the two channels through 'dHf(acetone) - dHf(acetone enol) = -0.4 eV' for the NEUTRAL species: the upper scheme expels neutral acetone, this one expels the less stable neutral enol. ARROWS ACTUALLY DRAWN: the page draws 2 arc(s), both single-barbed fishhooks, both belonging to the hydrogen transfer only -- arc (i) starts on the methyl C7-H bond and sweeps right with its barb towards the ionized carbonyl oxygen, arc (ii) starts at the '+.' dot on that oxygen and sweeps left with its barb at the migrating H. Nothing is drawn on the C4-C5 bond, on the C1=O2 pi bond, or at the hydroxyl oxygen. ENCODING (honest divergence): the migrating hydrogen cannot carry an atom map (RDKit folds a mapped explicit [H:n] into implicit valence -- verified in the project container), so both drawn fishhooks collapse into the single heavy-atom move <1> (one electron passes from O2 to the donor carbon C7: O2 spends its odd electron on the new O-H bond, the electron left by the homolysed C7-H bond stays on C7). Moves <2>-<5> are IMPLICIT, required for electron balance and for the drawn products but NOT drawn on the page: <2> is the C7 radical entering the forming C5=C7 pi bond, <3> is one non-bonding electron of the hydroxyl oxygen O6 completing that pi bond -- this is the step that actually moves the charge and the odd electron onto O6, exactly where the book prints '+.' -- and <4>+<5> are the charge-migrating cleavage proper: the C4-C5 sigma pair leaves HETEROLYTICALLY towards C4 (a double-barbed arrow, electron_count 2) to build the C1=C4 pi bond of the neutral enol, while the C1=O2 pi pair localises as a lone pair on O2, which is what discharges that oxygen to neutral. Because moves <4>,<5> are two-electron arrows, the gate reports two '(soft) ... consistent with a lone pair rather than radicals' notes on atoms 2 and 6: the checker compares arrow bookkeeping against RADICAL counts only, whereas O2 truly trades its odd electron for a lone pair (net non-bonding +1, as encoded) and O6 truly trades one lone-pair electron for the odd electron of the product ion (net non-bonding -1, as encoded). The encoding is the physically correct one; the soft notes are the known lone-pair blind spot of the checker. RESONANCE (convention C): the ion is encoded in the O-localised form the book draws, CH2=C(CH3)-OH+. , not in its distonic partner .CH2-C(CH3)=OH+ and not in the carbenium form .CH2-C+(CH3)-OH that the MOD rule set produces (see the mod_rules evidence). INTENSITY: the printed '20%' abundance for 'C3H6O+. (m/z 58)' is the TOTAL m/z 58 abundance; both Equation 8.75 channels give this same ion, and the same sentence states that D-labelling (Henneberg 1982) shows charge RETENTION (scheme IMS8-EQ8.75a) is favoured. 0.20 is therefore an UPPER BOUND for this charge-migration channel, not a measured branch intensity; status is 'proposed' for that reason. The page does not restate the ionizing energy; standard 70 eV EI is assumed per the book's convention."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.0832, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58_enol_charge_migration", "species_id": "enol_radical_cation_from_carbinol_end", "step_id": "step_rH_methyl_charge_migration", "observed_mz": 58.0413, "relative_intensity": 0.2, "hydrogen_shift": -1, "isotope_offset": 0, "status": "proposed", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
